US09301951B2
Intermediate 16d: tert-butyl 3-(3-((2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)-4-(tetrahydro-2H-pyran-4-yloxy)phenyl)carbamoyl)benzylthio)propanoate
Into a 50-mL round bottom flask, was placed a solution of N-(3-(trifluoromethyl)benzyl)-2-(2-amino-5-(tetrahydro-2H-pyran-4-yloxy)phenyl)isonicotinamide (270 mg, 0.52 mmol, 1.00 equiv, 90%) in dichloromethane (10 mL), 3-((3-tert-butoxy-3-oxopropylthio)methyl)benzoic acid (339 mg, 0.92 mmol, 2.00 equiv, 80%), EDC HCl (220 mg, 1.15 mmol, 2.00 equiv), and 4-dimethylaminopyridine (140 mg, 1.15 mmol, 2.00 equiv). The resulting solution was stirred for 3 h at 25° C. The resulting solution was diluted with 150 mL of dichloromethane and was washed with 1×20 mL of aqueous NH4Cl, 1×20 mL of 10% sodium bicarbonate, and 1×20 mL of brine. The mixture was dried over sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column and eluted with ethyl acetate/petroleum ether (1:1)˜dichloromethane:methanol (20:1). The product was obtained as 190 mg (42%) of a brown oil.

reactant | N-(3-(trifluoromethyl)benzyl)-2-(2-amino-5-(tetrahydro-2H-pyran-4-yloxy)phenyl)isonicotinamide | 0.52 mmol, 270 mg, 1.00 equiv | FC(C=1C=C(CNC(C2=CC(=NC=C2)C2=C(C=CC(=C2)OC2CCOCC2)N)=O)C=CC1)(F)F | C25H24F3N3O3
reactant | 3-((3-tert-butoxy-3-oxopropylthio)methyl)benzoic acid | 0.92 mmol, 339 mg, 2.00 equiv | C(C)(C)(C)OC(CCSCC=1C=C(C(=O)O)C=CC1)=O | C15H20O4S
reactant | EDC HCl | 1.15 mmol, 220 mg, 2.00 equiv | CCN=C=NCCCN(C)C.Cl
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 1.15 mmol, 140 mg, 2.00 equiv | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | tert-butyl 3-(3-((2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)-4-(tetrahydro-2H-pyran-4-yloxy)phenyl)carbamoyl)benzylthio)propanoate | 190 mg, 42% | FC(C=1C=C(CNC(=O)C2=CC(=NC=C2)C2=C(C=CC(=C2)OC2CCOCC2)NC(=O)C=2C=C(CSCCC(=O)OC(C)(C)C)C=CC2)C=CC1)(F)F | C40H42F3N3O6S
